US04152319
2,6-di tert.butyl-4-aminophenol was prepared by adding in a nitrogen atmosphere, a solution of 70 grams of sodium dithionate in 300 milliliters of water to a mixture of 23.5 grams of 2,6-di tert.butyl-4-nitrosophenol, 80 milliliters of 5 N sodium hydroxide solution and 160 milliliters of water. The addition was accomplished in 45 minutes at 24° C. to 41° C. After stirring for 21/4 hours, 100 milliliters of benzene was added to dissolve the solid product, and the layers were separated.

reactant | sodium dithionate | 70 grams | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
reactant | 2,6-di tert.butyl-4-nitrosophenol | 23.5 grams | C(C)(C)(C)C1=C(C(=CC(=C1)N=O)C(C)(C)C)O | C14H21NO2
reactant | sodium hydroxide | 5 N, 80 milliliters | [OH-].[Na+]
reactant | benzene | 100 milliliters | C1=CC=CC=C1 | C6H6
solvent | water | 300 milliliters | O | H2O
solvent | water | 160 milliliters | O | H2O
product | 2,6-di tert.butyl-4-aminophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N)C(C)(C)C)O | C14H23NO
